US03998866
A mixture of 16.6 grams (0.2 mole) of allyl isocyanate and 12.4 grams (0.2 mole) of ethanethiol is irradiated at -30° C for 24 hours in the manner described in Example 1 to yield the olefinic adduct, i.e. 3-ethylthiopropyl isocyanate as the major product.

reactant | allyl isocyanate | 0.2 mole, 16.6 grams | C(C=C)N=C=O | C4H5NO
reactant | ethanethiol | 0.2 mole, 12.4 grams | C(C)S | C2H6S
product | 3-ethylthiopropyl isocyanate | C(C)SCCCN=C=O | C6H11NOS
